US09163027B2
5,7-dimethyl-2-[(2-phenoxyethyl)sulfanyl]-[1,2,4]-triazolo[1,5-a]pyrimidine
The title compound was prepared according to the experimentals described for Example 1 above from 5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine-2-thiol and b-bromophenetole in 65% yield; EM (calc.): 300.1; MS (ESI) m/e: 301.1 (M+H)+.

reactant | 5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine-2-thiol | CC1=NC=2N(C(=C1)C)N=C(N2)S | C7H8N4S
reactant | b-bromophenetole | C1=CC=C(C=C1)OCCBr | C8H9BrO
product | 5,7-dimethyl-2-[(2-phenoxyethyl)sulfanyl]-[1,2,4]-triazolo[1,5-a]pyrimidine | 65% yield | CC1=NC=2N(C(=C1)C)N=C(N2)SCCOC2=CC=CC=C2 | C15H16N4OS
